US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-6-chloro-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (600 mg) and 10% Pd—C (162 mg) in EtOAc (50 mL) was hydrogenated under balloon pressure at room temperature for 1 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 6-chloro-3-(4-hydroxyphenyl)-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (200 mg) as a white solid.

reactant | 3-[4-(benzyloxy)phenyl]-6-chloro-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 600 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)Cl)C(C)C)=O | C22H20ClN3O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 162 mg | [Pd] | Pd
product | 6-chloro-3-(4-hydroxyphenyl)-1-(1-methylethyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 200 mg | ClC=1C=C2C(=NC1)N(C(N2C(C)C)=O)C2=CC=C(C=C2)O | C15H14ClN3O2
